US04193795
Part A--Preparation of N-(2-(Methacryloyloxyethyl)-3-chloropropionamide
Pyridine (15.8 g, 0.2 mole) was added dropwise to a mixture of 3-chloropropionyl chloride (12.7 g, 0.1 mole) and 2-aminoethyl methacrylate hydrochloride (16.5 g, 0.1 mole) in N,N-dimethylformamide (20 ml) at 0° C. The mixture was left to stir overnight at ambient temperature. The solvent was evaporated in vacuo, and the residue was dissolved in dichloromethane (500 ml). The mixture was then washed with saturated sodium chloride (24,200 ml), dried over anhydrous magnesium sulfate, and the solvent removed. The product was collected by distillation, bp 104°-110° C. at 2μ.

reactant | Pyridine | 0.2 mole, 15.8 g | N1=CC=CC=C1 | C5H5N
reactant | 3-chloropropionyl chloride | 0.1 mole, 12.7 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | 2-aminoethyl methacrylate hydrochloride | 0.1 mole, 16.5 g | Cl.C(C(=C)C)(=O)OCCN
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(Methacryloyloxyethyl)-3-chloropropionamide | C(C(=C)C)(=O)OCCC(C(=O)N)CCl | C9H14ClNO3
